US04873255
5-[4-(7-Hydroxy-2,8-dimethylchroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione
Following a procedure similar to that described in Example 1, but using 1 g of ethyl 3-[4-(7-acetoxy-2,8-dimethylchroman-2-ylmethoxy)phenyl]-2-chloropropionate (prepared as described in Preparation 41), 0.22 g of thiourea, 1.5 ml of sulfolane, 10 ml of ethylene glycol monomethyl ether and 4 ml of 3N aqueous hydrochloric acid, 586 mg of the title compound were obtained as a pale yellow powder, softening at 68°-71° C.

reactant | ethyl 3-[4-(7-acetoxy-2,8-dimethylchroman-2-ylmethoxy)phenyl]-2-chloropropionate | 1 g | C(C)(=O)OC1=CC=C2CCC(OC2=C1C)(C)COC1=CC=C(C=C1)CC(C(=O)OCC)Cl | C25H29ClO6
reactant | thiourea | 0.22 g | NC(=S)N | CH4N2S
reactant | sulfolane | 1.5 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | hydrochloric acid | 3N, 4 ml | Cl | ClH
solvent | ethylene glycol monomethyl ether | 10 ml | COCCO | C3H8O2
product | 5-[4-(7-Hydroxy-2,8-dimethylchroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione | 586 mg | OC1=CC=C2CCC(OC2=C1C)(C)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C22H23NO5S
